US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (3.00 g, 8.8 mmol) and 2-amino-5-methylbenzamide (3.30 g, 22.0 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-methylbenzamide was isolated as white solid (3.30 g, 82% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.30 (s, 3 H), 2.35 (s, 3 H), 6.64 (d, J=4.03 Hz, 1 H), 7.37 (dd, J=8.60, 1.65 Hz, 1 H), 7.46 (d, J=8.05 Hz, 2 H), 7.64 J=1.65 Hz, 1 H), 7.70 (s, 1 H), 7.71 (d, J=4.03 Hz, 1 H), 7.97 (dt, J=8.69, 1.97 Hz, 2 H), 8.19 (s, 1 H), 8.22 (d, J=8.42 Hz, 1 H), 12.02 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 8.8 mmol, 3.00 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-5-methylbenzamide | 22.0 mmol, 3.30 g | NC1=C(C(=O)N)C=C(C=C1)C | C8H10N2O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-methylbenzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=C(C=C2)C | C21H18ClN5O3S
